US05158949
A mixture of 4-methyl-1-tritylimidazole (12.9 g, 39.8 mmol) and 1-bromo-4-(4-chlorophenyl)butan-2-one (12.5 g, 47.8 mmol, 1.2 equivalents) in CH3CN (~200 mL) was heated at reflux for 16 hours. The reaction mixture was then cooled to room temperature and 2N HCL (30 mL) was added. The reaction mixture was then heated at reflux for 30 minutes, cooled to room temperature and treated with water (~500 mL). The resulting mixture was then washed with ether (~1×100 mL) and the pH adjusted to between 9 and 10 with 2N NaOH. The aqueous layer was extracted with ethyl acetate (3×100 mL), and the combined extracts were then washed with brine and dried over Na2SO4. After filtration and concentration, the resulting crude product (8.5 g) was purified by silica gel chromotography, eluting with 1-8% methanol in methylene chloride to give 8.2 g of 4-(4-chlorophenyl)-1-(5-methylimidazol-1-yl)butan-2-one (70% yield). The hydrochloride salt was recrystallized from methanol/ethyl acetate with m.p. 227°-228° C.

reactant | 4-methyl-1-tritylimidazole | 39.8 mmol, 12.9 g | CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2
reactant | 1-bromo-4-(4-chlorophenyl)butan-2-one | 47.8 mmol, 12.5 g, 1.2 equivalents | BrCC(CCC1=CC=C(C=C1)Cl)=O | C10H10BrClO
reactant | water | ~500 mL | O | H2O
solvent | CH3CN | ~200 mL | CC#N | C2H3N
product | 4-(4-chlorophenyl)-1-(5-methylimidazol-1-yl)butan-2-one | 8.2 g, 70% yield | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1C)=O | C14H15ClN2O
